US07714000B2
(c) tert-butyl[1(3′-dimethylaminomethyl-biphenyl-4-yl)-5-oxo-pyrrolidin-3-yl]-carbamate
525 mg (1.48 mmol) tert-butyl[1-(4-bromo-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamate are dissolved in 30 ml of toluene and 5 ml of water and combined with 318 mg (1.77 mmol) 2-(N,N-dimethylaminomethyl)phenylboronic acid, 48 mg (0.15 mmol) tetrabutylammonium bromide and 314 mg (2.96 mmol) potassium carbonate, and lastly 173 mg (0.15 mmol) tetrakis(triphenylphosphine)palladium(0) are added. The reaction solution is refluxed for 90 minutes at 400 Watt in the microwave. Then another 330 mg (1.84 mmol) 2-(N,N-dimethylaminomethyl)phenylboronic acid are added and the mixture is heated for one hour at 400 Watt in the microwave. The reaction solution is evaporated to dryness i. vac. The residue is purified by reversed phase chromatography.

reactant | tert-butyl[1-(4-bromo-phenyl)-5-oxo-pyrrolidin-3-yl]-carbamate | 1.48 mmol, 525 mg | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)Br)=O | C15H19BrN2O3
reactant | water | 5 ml | O | H2O
reactant | 2-(N,N-dimethylaminomethyl)phenylboronic acid | 1.77 mmol, 318 mg | CN(C)CC1=C(C=CC=C1)B(O)O | C9H14BNO2
reactant | potassium carbonate | 2.96 mmol, 314 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(N,N-dimethylaminomethyl)phenylboronic acid | 1.84 mmol, 330 mg | CN(C)CC1=C(C=CC=C1)B(O)O | C9H14BNO2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.15 mmol, 48 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl[1(3′-dimethylaminomethyl-biphenyl-4-yl)-5-oxo-pyrrolidin-3-yl]-carbamate | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C)C)=O | C24H31N3O3
